### PR TITLE
chore: further estimates for Lemma 7.4.4

### PR DESCRIPTION
**Pull request by grunweg**

### CODE REVIEW

File: Carleson/ForestOperator/Forests.lean [hunk 1]
```diff
@@ -38,28 +49,52 @@ lemma estimate_a1 {a : ℝ} (ha : 4 ≤ a) : 4 < ↑(2 ^ (12 * a)) / (4 * ↑a ^
...
-    exact (hf₁ x).mul <| (hf₂ x).inv (by positivity)
+    exact DifferentiableAt.differentiableWithinAt <| (hf₁ x).mul <| (hf₂ x).inv (by positivity)
   let f' : ℝ → ℝ := fun x ↦ ((12 * Real.log 2) - 3 * x⁻¹) * f x
-  have hf'₁ (x) : deriv f₁ x = (12 * Real.log 2) * f₁ x := sorry
-  have hf'₂ {x} (hx : x ≠ 0) : deriv f₂ x = 3 * x⁻¹ * f₂ x := sorry
+  have hf'₁ (x) : deriv f₁ x = (12 * Real.log 2) * f₁ x := by
+    let f₃ : ℝ → ℝ := fun x ↦ 12 * x
+    have hf₃ : HasDerivAt f₃ 12 x := by
+      unfold f₃
+      let aux := (hasDerivAt_id' x).const_mul (c := 12)
```
Comment (fpvandoorn) [inline Carleson/ForestOperator/Forests.lean:65]:
```suggestion
      have aux := (hasDerivAt_id' x).const_mul (c := 12)
```

Comment (grunweg) [reply Carleson/ForestOperator/Forests.lean]: It worked here - thanks!
